US05340489
1,3-Bis[4-n-butoxybenzenesulfonyloxy]benzene
The procedure of Example 1 is substantially repeated except two equivalents of 4-n-butoxybenzenesulfonyl chloride is substituted for the benzenesulfonyl chloride and 1,3-benzenediol is substituted for the phenol. The resulting disulfonate is a thick oil having PDSC onset/extrapolated temperatures of 286/292.

reactant | 4-n-butoxybenzenesulfonyl chloride | two equivalents | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1,3-benzenediol | C1(=CC(=CC=C1)O)O | C6H6O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 1,3-Bis[4-n-butoxybenzenesulfonyloxy]benzene | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)OCCCC | C26H30O8S2
